US09163003B2
Methanesulfonic acid 2-oxo-piperidin-3-yl ester
To a suspension of 3-hydroxy-piperidin-2-one (500 mg, 4.34 mmol, 1.0 eq) and triethylamine (0.908 mL, 6.51 mmol, 1.5 eq) in dichloromethane (3 mL) at 0° C. was added dropwise methanesulfonyl chloride (497 mg, 4.34 mmol, 1.0 eq) dissolved in dichloromethane (1 mL). The reaction was complete within 30 min as judged by LCMS. An orange precipitate was filtered, redissolved in dichloromethane and purified by column chromatography (MeOH/CH2Cl2) to give the title compound as a white waxy solid (204 mg, 1.056 mmol, 24.3% yield). 1H NMR (400 MHz, chloroform-d) δ ppm 5.78 (br. s, 1H) 4.94-5.05 (m, 1H) 3.30-3.44 (m, 2H) 3.27 (s, 3H) 2.24-2.37 (m, 1H) 2.08-2.21 (m, 1H) 1.98-2.08 (m, 1H) 1.79-1.96 (m, 1H). MS (m/z, MH+): 193.7

reactant | 3-hydroxy-piperidin-2-one | 4.34 mmol, 500 mg, 1.0 eq | OC1C(NCCC1)=O | C5H9NO2
reactant | triethylamine | 6.51 mmol, 0.908 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.34 mmol, 497 mg, 1.0 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 2-oxo-piperidin-3-yl ester | O=C1NCCCC1OS(=O)(=O)C | C6H11NO4S
